2120-02-18 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with recent transfer to BMT floor on [**2120-2-16**] now returning with
   respiratory failiure.  Patient had tachypnea, hypertension and this was
   onset following transfusion of PRBC and NS given with patient evolving
   tachycardia, hypertension and hypoxia.  He was given Rx for congestive
   heart failiure acutely and had ABG at 7.2/63/61 and was placed on BIPAP
   with improvement in ABG to  7.43/34/123 and improvement in tachycardia
   and tachypnea consistent with improvement in acute pulmonary edema.
   Of note--patient with fever following admission.
   24 Hour Events:
 PICC LINE - START [**2120-2-18**] 06:40 AM
 BLOOD CULTURED - At [**2120-2-18**] 06:48 AM
 FEVER - 101.3
F - [**2120-2-18**] 06:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-2-15**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-18**] 06:33 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2120-2-18**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Hypertension
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2120-2-18**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 128 (128 - 144) bpm
   BP: 99/54(65) {99/54(65) - 139/72(88)} mmHg
   RR: 29 (29 - 44) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             134 mL
   PO:
             TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (480 - 480) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.46/34/137/23/1
   Ve: 13.8 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Good air movement with BIPAP in place
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
Patient moving all
   extremities, not compliant but responsive to verbal inputs, exam
   otherwise limited.
   Labs / Radiology
   9.5 g/dL
   36 K/uL
   264 mg/dL
   2.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   42 mg/dL
   111 mEq/L
   149 mEq/L
   29.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2120-2-15**]  02:06 AM
                             [**2120-2-15**]  05:55 AM
                             [**2120-2-15**]  07:45 AM
                             [**2120-2-15**]  02:27 PM
                             [**2120-2-15**]  08:00 PM
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
   WBC
   3.5
   2.9
   2.2
   11.9
   Hct
   27.8
   29.4
   26.5
   29.0
   Plt
   38
   47
   38
   36
   Cr
   1.7
   2.0
   2.3
   2.6
   TropT
   0.23
   0.13
   0.10
   TCO2
   23
   24
   25
   25
   Glucose
   221
   188
   161
   264
   Other labs: PT / PTT / INR:16.3/32.0/1.4, CK / CKMB /
   Troponin-T:39/4/0.10, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:9.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR-Striking right hilar mass, left sided LL mass and right LL
   infiltrate seen all with minimal change from previous--he has some
   increase in interstitial markings concerning for possible interstitial
   pulmonary edema.
   Microbiology: No new positive results
   Assessment and Plan
   78 yo male with h/o CAD, Chronic Renal Failure, CLL and known lung
   masses in the setting of known renal cell cancer with recent admission
   with bronchial artery bleed leading to admission in [**1-17**].  He did have
   recurrent hemoptysis and respiratory failure during previous admission
   but now has onset acutely of respiratory distress and in fact
   respiratory failure requiring BIPAP suppport which has shown such rapid
   onset and such rapid resolution that it is most consistent with acute
   pulmonary edema but the trigger remains to be fully defined.  On the
   differential is certainly elevation in LVEDP either as primary event
   with ischemia or secondarily in the setting of severe tachycardia.  In
   addition, patient may have had some aspiration pneumonitis as acute
   trigger.  What is important to consider in Rx is the fever, rise in WBC
   count and bandemia seena--which must be interpreted in the setting of
   GCSF.  Finally acute volume overload with blood and fluids given may
   have been initial trigger into worsening.
   1)RESPIRATORY FAILURE-Likely hydrostatic pulmonary edema in addition to
   asapiration pneumonitis and possible co-contribution from transfusion
   reaction/TRALI which may account for fever.  The notion of moving to
   diuresis is limited somewhat by the rising creatinine and worsening
   renal failure.  The hypercarbic component of the respiratory failure
   may well be related to independent issue but as it resolves to rapidly
   with intervention will have to be tracked with primary intervention.
   -Keep I/O even today
   -Wil control HR and BP going forward as primary goal
will look to
   up-titration of Beta blocker to get rate control in effect.  IF acutely
   worse will move to control HR as primary maneuver.
   -For acute worsening will work to obtain better rate control and
   support with mask ventilation
   -CK has been negative for acute insult
   -Continue Vanco/Zosyn in the setting of fever
   -Will get off of BIPAP mask today
   -Left side down for acute hemoptysis
   2)CHF
this is chronic diastolic dysfunction with acute worsening.
   -Rate control with beta blocker as primay intervention
   -Keep I/O even
   3)CHRONIC RENAL FAILURE-_This may well be pre-renal insult in the
   setting of realtive hypovolemia at this time.  This may have been
   exacerbated in the setting of need for acute management of respiratory
   failure.
   -Check FeNa when able with Lasix recently given
   -Will follow Cr
   -I/O even today
   -Has single kidney at this point and will renally dose medications,
   avoid nephrotoxins and keep I/O even today.
   4)ALTERED MENTAL STATUS-_This has been with persistent issue with
   patient this morning showing delirium primarily with multiple metabolic
   insults seen.  We have been limited in capacity to pursue definative
   imaging with patient non-compliant.  EEG completed yesterday and will
   evaluate results with Neurology consultation team
   -MRI and LP when able to complete for full evaluation with Neurology
   input available.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2120-2-18**] 06:30 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2120-02-19 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cards consult feels likely a pulmomary rather than cardiac process
   --> gentle hydration, rate control
   - BB increased to 10 IV q 4 for improved HR control
   - TPN held yesterday due to electrolyte abnormalities
   - dose of vanco given b/c level was 14
   - FE Urea - 59%
   - echo ordered, but not yet performed
   - spiked T 100.4 -> cultures sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-2-18**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-19**] 12:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-18**] 08:00 PM
   Metoprolol - [**2120-2-19**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-19**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 101 (87 - 125) bpm
   BP: 140/68(86) {109/63(77) - 175/101(114)} mmHg
   RR: 34 (20 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,463 mL
                                                                    707 mL
   PO:
             TF:
   IVF:
                                                                  1,735 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                    865 mL
   Urine:
                                                                  3,195 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -732 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (720 - 720) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: ///26/
   Ve: 11.8 L/min
   Physical Examination
   General: somnolent, minimally arousable to loud commands, not following
   commands, in respiratory distress using accessory resp muscles
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: inspiratory/Expiratory crackles  through out, no wheezing, fair
   air movement bilaterally
   CV: Regular tachycardia, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, hypoactive bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: foley in place draining yellow urine
   Ext: cool, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   29 K/uL
   7.4 g/dL
   182 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   52 mg/dL
   110 mEq/L
   148 mEq/L
   24.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2120-2-15**]  07:45 AM
                             [**2120-2-15**]  02:27 PM
                             [**2120-2-15**]  08:00 PM
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
                             [**2120-2-18**]  02:19 PM
                             [**2120-2-19**]  02:48 AM
                             [**2120-2-19**]  03:40 AM
   WBC
   2.9
   2.2
   11.9
   4.1
   Hct
   29.4
   26.5
   29.0
   24.8
   Plt
   47
   38
   36
   29
   Cr
   2.0
   2.3
   2.6
   2.8
   2.6
   TropT
   0.13
   0.10
   0.12
   TCO2
   24
   25
   25
   Glucose
   188
   161
   264
   259
   182
   Other labs: PT / PTT / INR:16.3/32.0/1.4, CK / CKMB /
   Troponin-T:39/3/0.12, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR (my read): interval worsening of bilateral fluffy
   pulmonary infiltrate.
   Microbiology: Urine and blood cltx pending.
   Assessment and Plan
   71 yo M with CAD, renal CA, CLL with recent hemotpysis [**1-9**] metastatic
   disease (renal CA) and mediastinal lymphadenopathy transferred to the
   [**Hospital Unit Name 1**] for acute hypoxic respiratory failure.
   .
   # Acute Hypoxic/Hypercarbic Respiratory Failure - Differential includes
   flash pulmonary edema vs compressive pathology of airways from
   mediastinal lymphadenopathy/inflammation from XRT vs. TRALI given
   recent transfusion and febrile reaction. HCt moderately stable, no
   evidence of hemoptysis. Is newly febrile, but no increase in
   sputum/secretions/cough to suggest infectious process. PE less likely
   given rapid response to mask ventilation. CXR most consistent with
   volume overload and clinically, most fitting.
   - pt is dry given cumulative i/os, exam, labs.
   - provide HR/BP control
   - trial of mask ventilation, intubate if not tolerating/responding
   - pulmonary toilet with albuterol/ipatropium
   - repeat CXR to assess for interval change
   - trend ABGs
   - continue vanc/zosyn as per BMT team, repeat cultures
   - attempt sputum cx if able to tolerate
   .
   # Agitation/Altered Mental Status - Long course of waxing/[**Doctor Last Name 533**] -
   delirium. Likely toxic metabolic but CNS insult has not been offically
   ruled out. Neuro was consulted when patient was on BMT. Repeat head CT
   [**2-17**] unremarkable. EEG peforming
   - obtain MRI when medically stable and capable of cooperating
   - F/u EEG results
   - neuro recs
   - will need LP w/ stable
   .
   # Fever - Had been treating for aspiration pnuemonia on floor with
   vanc/zosyn. CLL also likely contributing to fever as has not received
   chemo in a number of weeks. Febrile on transfer, also after blood
   transfusion.
   - f/u blood and urine culture
   - continue vanc/zosyn, vanc dosing by level, will not broaden at this
   time unless hemodynamically decompenstates
   - tylenol prn fever
   .
   #CAD w/ acute on chronic diastolic dysfunction: s/p NSTEMI in [**Month (only) 2299**],
   likely in setting of acute bleed, known multi-vessel disease, medically
   managed. Anticoagulation contra-indicated [**1-9**] hemoptysis. Recent
   significant hypertension w/ associated EKG changes.
   - continue BB with holding parameters as tolerated
   - completed cycling enzymes: 0.1->0.07->0.12
   - am EKG
   .
   # Hemoptysis: Felt [**1-9**] presumed metastatic renal CA (clear cell). HCT
   has been slowly down trending, got transfused on [**2-17**] for HCT of 27 1
   unit, this morning 24.8.
   - continue XRT sessions
   - Hct q24 hours
   - Active type and screen
   - transfuse to HCT > 30
   - Maintain access
   - Lay on left side if concern for active hemorrhage
   .
   # Chronic Renal Insufficency: Cr elevated to 2.3 over past few days s/p
   left nephrectomy, now 2.6.
   - continue to monitor, avoid nephrotoxins
   - foley to monitor strict I/Os
   .
   # Hypernatremia:Recent event, felt [**1-9**] volume depletion on floor, now
   148.
   - continue to trend with diuresis
   .
   # Pancytopenia: Patient has known AIHA related to CLL.
   - continue stress dose hydrocortisone taper
   - follow hct
   - transfuse to Hct 30 as above, plt goal to be clarified with BMT team
   .
   # CLL: Treatment on hold [**1-9**] ongoing hemoptysis and new respiratory
   failure
   - f/u BMT recs
   .
   # DM2: FS qid and HISS
   .
   FEN: Hold IVF if BP stable, replete electrolytes prn, npo for  possible
   intubation
   .
   Prophylaxis: pneumboots given thrombocytopenia
   .
   Access: left PICC
   .
   Code:  Full
   .
   Communication: Patient and wife
   .
   Disposition: pending clinical improvement back to BMT
   ICU Care
   Nutrition:
   TPN without Lipids - [**2120-2-18**] 06:30 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Comments: NPO give respiratory distress
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-02-19 10:54:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2120-2-19**] 04:40 AM
 URINE CULTURE - At [**2120-2-19**] 04:41 AM
   Cardiology Consultation-Felt patient to be relative hypovolemic and
   efforts aimed at improved rate control undertaken.
   Patient continued on broad spectrum antibiotics in the setting of
   continued fever elevations.
   Patient currently returned to 2 lpm nasal cannula
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-2-18**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-19**] 12:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-18**] 08:00 PM
   Metoprolol - [**2120-2-19**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2120-2-19**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 95 (87 - 115) bpm
   BP: 146/73(92) {120/60(80) - 175/101(114)} mmHg
   RR: 35 (20 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,463 mL
                                                                  1,103 mL
   PO:
             TF:
   IVF:
                                                                  1,735 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  3,195 mL
                                                                  1,130 mL
   Urine:
                                                                  3,195 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -732 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (720 - 720) mL
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 11.8 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   29 K/uL
   182 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   52 mg/dL
   110 mEq/L
   148 mEq/L
   24.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2120-2-15**]  07:45 AM
                             [**2120-2-15**]  02:27 PM
                             [**2120-2-15**]  08:00 PM
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
                             [**2120-2-18**]  02:19 PM
                             [**2120-2-19**]  02:48 AM
                             [**2120-2-19**]  03:40 AM
   WBC
   2.9
   2.2
   11.9
   4.1
   Hct
   29.4
   26.5
   29.0
   24.8
   Plt
   47
   38
   36
   29
   Cr
   2.0
   2.3
   2.6
   2.8
   2.6
   TropT
   0.13
   0.10
   0.12
   TCO2
   24
   25
   25
   Glucose
   188
   161
   264
   259
   182
   Other labs: PT / PTT / INR:16.3/32.0/1.4, CK / CKMB /
   Troponin-T:39/3/0.12, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   71 yo male with renal cancer, CLL and complications of recurrent
   hemoptysis now admitted with acute hypoxemic respiratory failure.  He
   has not had significant hemoptysis recurring at this time and he does
   have acute repiratory distress which is accompanied by significant
   tachycardia and hypertension.  It is not clear that the
   hypertension/tachycardia is the triggering event but may be a
   manifestation of the respiratory distress.  That leaves an open
   question as to what is the initial trigger for the episodes and small
   mucus plugging, intermittent aspiration all are being considered.  He
   may have some substantial pneumonia contributing to the intermittent
   obstruction.  The notion of primary pulmonary edema is attractive as he
   has rapid resolution with intervention but this may be transient
   elevations in LVEDP
   1)Respiratory Failure-
   -cardiogenic-Lopressor 10mg q 4 hours to minimize the tachycardia and
   elevations in LVEDP that accompany acute episodes
   -Will have to add dilt for rate control if unable to be controlled with
   Lopressor alone
   -Pneumonia-Vanco/Zosyn to continue 2 week course given likely insult,
   but, patient persistent fevers and CXR with opacities so -will discuss
   with BMT for determination
   -Will continue to monitor for any evidence of recurrent hemoptysis
   acutely which is not seen.
   -Will monitor for recurrent fever as one possible marker for infection
   but fever is likely multifactorial
   -Will trial CPAP autoset if concern is significant for possible
   obstructive sleep apnea as trigger
with risk of recurrent hemoptysis
   and concern with secretions will have to use nocturnal mask with
   caution
   Chronic Renal Failure-
   -Again, renal dosing medications
   -Vanco by levels
   -Continue with minimization of nephrotoxins
   ICU Care
   Nutrition:
   TPN without Lipids - [**2120-2-18**] 05:43 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2120-02-20 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -maxxed out on lopressor in AM (15 mg IV QID) with HR still 100s. Added
   on dilt drip at 1400 for better rate control.
   -EEG read: IMPRESSION: abnormal, consistent with a mild to moderate
   encephalopathy. No focal, lateralized, or epileptiform features noted.
   -Spiked to 101.8 axillary at 830 pm, blood and urine cultures sent.
   Recultured by RNs again at approx 12 AM for further increase in temp to
   103. Started on cooling blanket and PR tylenol PRN.
   -TTE: moderate global left ventricular hypokinesis (LVEF = 35-40%),
   slightly worse than prior study.
   - Last dose of  RADIATION THERAPY -administered at [**2120-2-19**] 08:34 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-20**] 04:49 AM
   Vancomycin - [**2120-2-20**] 05:34 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-19**] 07:30 PM
   Metoprolol - [**2120-2-20**] 03:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.2
C (97.2
   HR: 85 (81 - 105) bpm
   BP: 126/49(67) {113/43(62) - 154/91(103)} mmHg
   RR: 33 (24 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,827 mL
                                                                    656 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    530 mL
   Urine:
                                                                  2,360 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -533 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General: somnolent, minimally arousable to loud commands, not following
   commands
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTAB anteriorly, no wheezing or crackles appreciated
   CV: Regular tachycardia, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, NABS, no rebound tenderness
   or guarding, no organomegaly
   GU: foley in place draining yellow urine
   Ext: wwp, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   36 K/uL
   7.8 g/dL
   288 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.0 mEq/L
   49 mg/dL
   106 mEq/L
   144 mEq/L
   22.8 %
   2.5 K/uL
        [image002.jpg]
                             [**2120-2-15**]  08:00 PM
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
                             [**2120-2-18**]  02:19 PM
                             [**2120-2-19**]  02:48 AM
                             [**2120-2-19**]  03:40 AM
                             [**2120-2-19**]  05:40 PM
                             [**2120-2-20**]  03:28 AM
   WBC
   2.2
   11.9
   4.1
   3.4
   2.5
   Hct
   26.5
   29.0
   24.8
   24.1
   22.8
   Plt
   38
   36
   29
   48
   36
   Cr
   2.3
   2.6
   2.8
   2.6
   2.5
   2.3
   TropT
   0.10
   0.12
   TCO2
   25
   25
   Glucose
   161
   264
   259
   182
   164
   288
   Other labs: PT / PTT / INR:17.3/32.6/1.6, CK / CKMB /
   Troponin-T:39/3/0.12, Alk Phos / T Bili:/1.1, Differential-Neuts:88.0
   %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:2.7 g/dL, LDH:481 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR (my read): largely unchanged.
   Large mediastinal and hilar masses, LLL atelectasis, R pleural
   effusion.
   Microbiology: urine and blood cultures pending, NGTD
   vanco trough 12, so redosed this AM.
   Assessment and Plan
   71 yo M with CAD, renal CA, CLL with recent hemotpysis [**1-9**] metastatic
   disease (renal CA) and mediastinal lymphadenopathy transferred to the
   [**Hospital Unit Name 1**] for acute hypoxic respiratory failure.
   .
   # Acute Hypoxic/Hypercarbic Respiratory Failure - Differential includes
   flash pulmonary edema vs compressive pathology of airways from
   mediastinal lymphadenopathy/inflammation from XRT vs. TRALI given
   recent transfusion and febrile reaction. HCt moderately stable, no
   evidence of hemoptysis. Is newly febrile, but no increase in
   sputum/secretions/cough to suggest infectious process. PE less likely
   given rapid response to mask ventilation. CXR on admission to [**Hospital Unit Name 1**] most
   consistent with volume overload and clinically, most fitting.  Pt
   diuresed with lasix, and now sating well on RA. Continues to be
   tachypneic but likely [**1-9**] underlying pulmonary tumor burden.  Episodes
   of hypoxia at this point thought to be most likely secondary to lung
   collapse/increase in atelectasis from malignancy.
   - pt is dry given cumulative i/os, exam, labs.
   - provide HR/BP control
on lopressor and dilt drip now since unsafe to
   take pos, but if possible will switch to po meds.
   - pulmonary toilet with albuterol/ipatropium
   - repeat CXR to assess for interval change in AM.
   - trend ABGs
   - continue vanc/zosyn as per BMT team, repeat cultures
   - attempt sputum cx if able to tolerate
   .
   # Agitation/Altered Mental Status - Long course of waxing/[**Doctor Last Name 533**] -
   delirium. Likely toxic metabolic but CNS insult has not been offically
   ruled out. Neuro was consulted when patient was on BMT. Repeat head CT
   [**2-17**] unremarkable. EEG peforming
   - obtain MRI when medically stable and capable of cooperating
   - F/u EEG results
   - neuro recs
   - ?LP w/ stable
   .
   # Fever - Had been treating for aspiration pnuemonia on BMT floor with
   vanc/zosyn. CLL also likely contributing to fever as has not received
   chemo in a number of weeks. Possible that drug reaction may also be
   contributing to fever spikes. No source identified to date. GI and
   pulmonary sources not suspected given no e/o of GI symptoms and CXR w/o
   evidence of consolidation/infiltrate.  Suspicion for PICC line
   infection is low as no e/o at insertion site and pt has never had
   bacteremia. Given high spike overnight, question raised again regarding
   need for LP; no acute worsening, however of pt
s mental status.
   - f/u blood and urine culture
   - continue vanc/zosyn, vanc dosing by level (goal <15), will not
   broaden at this time unless hemodynamically decompenstates.
   - tylenol prn fever
   -?LP today if pt tolerates
   .
   #CAD w/ acute on chronic diastolic dysfunction: s/p NSTEMI in [**Month (only) 2299**],
   likely in setting of acute bleed, known multi-vessel disease, medically
   managed. Anticoagulation contra-indicated [**1-9**] hemoptysis. Recent
   significant hypertension w/ associated EKG changes.
   - continue BB and dilt with holding parameters as tolerated; transition
   to po when possible.
   - completed cycling enzymes: 0.1->0.07->0.12
   - am EKG
   .
   # Hemoptysis: Felt [**1-9**] presumed metastatic renal CA (clear cell). HCT
   has been slowly down trending, got transfused on [**2-17**] for HCT of 27 1
   unit, this morning 24.8.
   - continue XRT sessions
   - Hct q24 hours
   - Active type and screen
   - transfuse to HCT > 30
   - Maintain access
   - Lay on left side if concern for active hemorrhage
   .
   # Chronic Renal Insufficency: Cr elevated to 2.3 over past few days s/p
   left nephrectomy, now 2.3.
   - continue to monitor, avoid nephrotoxins
   - foley to monitor strict I/Os
   .
   # Hypernatremia:Recent event, felt [**1-9**] volume depletion on floor, now
   148.
   - continue to trend with diuresis
   .
   # Pancytopenia: Patient has known AIHA related to CLL.  ?if radiation
   treatments are contributing to decreased counts and/or ?MDS from
   underlying malignancy.
   - continue stress dose hydrocortisone taper
   - follow hct
   - transfuse to HCT>21 or if HD instability. PLTs>30 given patient
   risk of bleeding from pulmonary tumor.
   .
   # CLL: Treatment on hold [**1-9**] ongoing hemoptysis and new respiratory
   failure
   - f/u BMT recs
   .
   # DM2: FS qid and HISS
   .
   FEN: Hold IVF if BP stable, replete electrolytes prn, TPN.
   .
   Prophylaxis: pneumboots given thrombocytopenia
   .
   Access: left PICC
   .
   Code:  Full
   .
   Communication: Patient and wife
   .
   Disposition: pending clinical improvement back to BMT
   ICU Care
   Nutrition:
   TPN without Lipids - [**2120-2-18**] 06:30 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-02-20 09:16:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2120-2-19**] 08:34 AM
 BLOOD CULTURED - At [**2120-2-19**] 07:52 PM
   From PICC line
 URINE CULTURE - At [**2120-2-19**] 07:52 PM
 BLOOD CULTURED - At [**2120-2-20**] 04:00 AM
   From PICC line
 FEVER - 102.9
F - [**2120-2-20**] 12:00 AM
   -Lopressor up-titrated and dilt gtt started at 8pm
   EEG-concerning for encephaolopathy, no seizure
   -Recurrent fevers seen overnight.
   -TTE-EF-35-40%,
   -XRT completed yesterday morning
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-20**] 04:49 AM
   Vancomycin - [**2120-2-20**] 05:34 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-19**] 07:30 PM
   Metoprolol - [**2120-2-20**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2120-2-20**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.3
C (97.4
   HR: 101 (81 - 105) bpm
   BP: 129/56(73) {113/43(62) - 154/91(103)} mmHg
   RR: 32 (24 - 44) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,827 mL
                                                                    817 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    817 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    650 mL
   Urine:
                                                                  2,360 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -533 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Is with modest
   increase in somnolence
   Labs / Radiology
   7.8 g/dL
   36 K/uL
   288 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.0 mEq/L
   49 mg/dL
   106 mEq/L
   144 mEq/L
   22.8 %
   2.5 K/uL
        [image002.jpg]
                             [**2120-2-15**]  08:00 PM
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
                             [**2120-2-18**]  02:19 PM
                             [**2120-2-19**]  02:48 AM
                             [**2120-2-19**]  03:40 AM
                             [**2120-2-19**]  05:40 PM
                             [**2120-2-20**]  03:28 AM
   WBC
   2.2
   11.9
   4.1
   3.4
   2.5
   Hct
   26.5
   29.0
   24.8
   24.1
   22.8
   Plt
   38
   36
   29
   48
   36
   Cr
   2.3
   2.6
   2.8
   2.6
   2.5
   2.3
   TropT
   0.10
   0.12
   TCO2
   25
   25
   Glucose
   161
   264
   259
   182
   164
   288
   Other labs: PT / PTT / INR:17.3/32.6/1.6, CK / CKMB /
   Troponin-T:39/3/0.12, Alk Phos / T Bili:/1.1, Differential-Neuts:88.0
   %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:2.7 g/dL, LDH:481 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR--no significant chagne
   Microbiology: Cultures--all pending--no positive results
   Assessment and Plan
   71 yo male with renal cancer, CLL, lung mets with significant
   hemoptysis now re-admitted with acute hypoxemic respiratory failure.
   He has completed XRT course at this time for local treatment of
   disease.  In this setting he has evolved significant fever concerning
   for new and untreated infection but has not had evidence of recurrent
   hemoptysis through to this morning.  Interestingly patient has evolved
   to the point of pancytopenia on laboratory studies this morning.
   1)Tachycardia
He does have significant sources of fever and possible
   infection which is in addition to his persistent respiratory distress.
   -Will continue with beta blocker therapy and calcium channel blocker
   2)Hypoxemic Respiratory Failure
He has insults of known lung masses.
   We have concern for infection but have not been able to clearly
   identify and with HR stabilized we have obtained stable saturations but
   we have had persistent tachypnea to 36 at this time.
   -On room air
   -Continue to provide O2 as needed
   -Will Rx for infection as below
   3)Altered Mental Status-_EEG without Seizure, CT without intra-cranial
   mets, we have possible hypoxic/anoxic insult.
   -With recurrent fevers will have to perform LP
this is in the setting
   of worsening mental status
   -If LP unrevealing will have to consider MRI
   -Doubt seizure activity driving altered mental status
   4)Fever-recurrent and significant.
   -LP today
   -Vanco/Zosyn
   -Blood drawn
   -Urine sent
   -PICC line to be D/C
d if alternative source not seen
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: No indicated
   VAP:
   Comments:
   Communication:  Comments:  Dr. [**Last Name (STitle) 383**] and Dr. [**Last Name (STitle) 363**] in discussion
   with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2120-02-21 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BMT recs: Rec'd LP, and wanted it sent for HHV6, adenovirus, CMV,
   viral culture
   - Did LP --> 1WBC, 3 RBC, 51 prot, 98 gluc, cryptococcus negative
   - increased sliding scale
   - picc clotted off this am, required TPA
 FEVER - 102.0
F - [**2120-2-21**] 01:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-2-20**] 05:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-21**] 12:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-2-20**] 08:00 PM
   Famotidine (Pepcid) - [**2120-2-20**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.2
C (100.8
   HR: 92 (77 - 112) bpm
   BP: 138/65(82) {98/48(65) - 145/73(88)} mmHg
   RR: 38 (23 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,727 mL
                                                                    412 mL
   PO:
             TF:
   IVF:
                                                                  1,386 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    600 mL
   Urine:
                                                                  1,415 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    312 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: somnolent, minimally arousable to voice then falls asleep, not
   following commands
   HEENT: Sclera anicteric, MMD, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTAB anteriorly, no wheezing or crackles appreciated
   CV: Regular tachycardia, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, NABS, no rebound tenderness
   or guarding, no organomegaly
   GU: foley in place draining yellow urine
   Ext: wwp, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   38 K/uL
   7.7 g/dL
   240 mg/dL
   2.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   54 mg/dL
   108 mEq/L
   144 mEq/L
   22.4 %
   1.6 K/uL
        [image002.jpg]
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
                             [**2120-2-18**]  02:19 PM
                             [**2120-2-19**]  02:48 AM
                             [**2120-2-19**]  03:40 AM
                             [**2120-2-19**]  05:40 PM
                             [**2120-2-20**]  03:28 AM
                             [**2120-2-21**]  04:41 AM
   WBC
   2.2
   11.9
   4.1
   3.4
   2.5
   1.6
   Hct
   26.5
   29.0
   24.8
   24.1
   22.8
   22.4
   Plt
   38
   36
   29
   48
   36
   38
   Cr
   2.3
   2.6
   2.8
   2.6
   2.5
   2.3
   2.5
   TropT
   0.12
   TCO2
   25
   25
   Glucose
   161
   264
   259
   182
   164
   288
   240
   Other labs: PT / PTT / INR:16.7/32.0/1.5, CK / CKMB /
   Troponin-T:39/3/0.12, ALT / AST:24/29, Alk Phos / T Bili:141/1.2,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:481 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: my read no significant interval change.
   Microbiology: CSF: viral, fungal studies pending.
   no microorganisms seen.
   Blood cultures NGTD
   Urine cultures negative
   Assessment and Plan
   71 yo M with CAD, renal CA, CLL with recent hemotpysis [**1-9**] metastatic
   disease (renal CA) and mediastinal lymphadenopathy transferred to the
   [**Hospital Unit Name 1**] for acute hypoxic respiratory failure.
   .
   # Acute Hypoxic/Hypercarbic Respiratory Failure - Differential includes
   flash pulmonary edema vs compressive pathology of airways from
   mediastinal lymphadenopathy/inflammation from XRT vs. TRALI given
   recent transfusion and febrile reaction. HCt moderately stable, no
   evidence of hemoptysis. Is newly febrile, but no increase in
   sputum/secretions/cough to suggest infectious process. PE less likely
   given rapid response to mask ventilation. CXR on admission to [**Hospital Unit Name 1**] most
   consistent with volume overload and clinically, most fitting.  Pt
   diuresed with lasix, and now sating well on RA. Continues to be
   tachypneic but likely [**1-9**] underlying pulmonary tumor burden.  Episodes
   of hypoxia at this point thought to be most likely secondary to lung
   collapse/increase in atelectasis from malignancy.
   - pt is dry given cumulative i/os, exam, labs.
   - provide HR/BP control
on lopressor and dilt drip now since unsafe to
   take pos, but if possible will switch to po meds.
   - pulmonary toilet with albuterol/ipatropium
   - repeat CXR to assess for interval change in AM.
   - trend ABGs
   - continue vanc/zosyn as per BMT team, repeat cultures
   .
   # Agitation/Altered Mental Status - Long course of waxing/[**Doctor Last Name 533**] -
   delirium. Likely toxic metabolic but CNS insult has not been offically
   ruled out. Neuro was consulted when patient was on BMT. Repeat head CT
   [**2-17**] unremarkable. EEG without e/o seizure.
   - f/u CSF results.
   - neuro recs
   .
   # Fever - Had been treating for aspiration pnuemonia on BMT floor with
   vanc/zosyn. CLL also likely contributing to fever as has not received
   chemo in a number of weeks. Possible that drug reaction may also be
   contributing to fever spikes. No source identified to date. GI and
   pulmonary sources not suspected given no e/o of GI symptoms and CXR w/o
   evidence of consolidation/infiltrate.  Suspicion for PICC line
   infection is low as no e/o at insertion site and pt has never had
   bacteremia. Given high spike overnight on [**2-19**], question raised again
   regarding need for LP; no acute worsening, however of pt
s mental
   status.
   -LP performed. Will f/u CSF results. Prelim most c/w non-bacterial
   infection, if any.
   - f/u blood and urine cultures
   - continue vanc/zosyn, vanc dosing by level (goal <15), will not
   broaden at this time unless hemodynamically decompenstates.
   - tylenol prn fever
   .
   #CAD w/ acute on chronic diastolic dysfunction: s/p NSTEMI in [**Month (only) 2299**],
   likely in setting of acute bleed, known multi-vessel disease, medically
   managed. Anticoagulation contra-indicated [**1-9**] hemoptysis. Recent
   significant hypertension w/ associated EKG changes.
   - continue BB and dilt with holding parameters as tolerated; transition
   to po when possible.
   - completed cycling enzymes: 0.1->0.07->0.12
   - am EKG
   .
   # Hemoptysis: Felt [**1-9**] presumed metastatic renal CA (clear cell). HCT
   has been slowly down trending, got transfused on [**2-17**] for HCT of 27 1
   unit, this morning 22.4.
   - continue XRT sessions
   - Hct q24 hours
   - Active type and screen
   - transfuse to HCT > 21
   - Maintain access
   - Lay on left side if concern for active hemorrhage
   .
   # Chronic Renal Insufficency: Cr elevated to 2.3 over past few days s/p
   left nephrectomy, now 2.3.
   - continue to monitor, avoid nephrotoxins
   - foley to monitor strict I/Os
   .
   # Hypernatremia:Recent event, felt [**1-9**] volume depletion on floor, now
   148.
   - continue to trend with diuresis
   .
   # Pancytopenia: Patient has known AIHA related to CLL.  ?if radiation
   treatments are contributing to decreased counts and/or ?MDS from
   underlying malignancy.
   - continue stress dose hydrocortisone taper
   - follow hct
   - transfuse to HCT>21 or if HD instability. PLTs>30 given patient
   risk of bleeding from pulmonary tumor.
   .
   # CLL: Treatment on hold [**1-9**] ongoing hemoptysis and new respiratory
   failure
   - f/u BMT recs
   .
   # DM2: FS qid and HISS
   .
   FEN: Hold IVF if BP stable, replete electrolytes prn, TPN.
   .
   Prophylaxis: pneumboots given thrombocytopenia
   .
   Access: left PICC
   .
   Code:  Full
   .
   Communication: Patient and wife
   .
   Disposition: back to BMT today, if bed available.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2120-2-18**] 06:30 AM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU call out to BMT

2120-02-21 11:31:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   Pulmonary Edema
   Altered mental status
   Hemoptysis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2120-2-20**] 03:00 PM
 FEVER - 102.0
F - [**2120-2-21**] 01:00 AM
   -Dilt gtt discontinued
   -Persistent hyperglycemia seen
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-2-20**] 05:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-2-21**] 06:12 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-2-20**] 08:24 PM
   Metoprolol - [**2120-2-21**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2120-2-21**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38.9
C (102
   Tcurrent: 37.8
C (100
   HR: 111 (77 - 112) bpm
   BP: 155/77(96) {98/48(65) - 155/77(96)} mmHg
   RR: 39 (23 - 44) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.1 kg (admission): 82.1 kg
             Total In:
                                                                  1,727 mL
                                                                    850 mL
   PO:
             TF:
   IVF:
                                                                  1,386 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    960 mL
   Urine:
                                                                  1,415 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    312 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   38 K/uL
   240 mg/dL
   2.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   54 mg/dL
   108 mEq/L
   144 mEq/L
   22.4 %
   1.6 K/uL
        [image002.jpg]
                             [**2120-2-16**]  01:23 AM
                             [**2120-2-16**]  05:39 AM
                             [**2120-2-18**]  06:45 AM
                             [**2120-2-18**]  07:17 AM
                             [**2120-2-18**]  02:19 PM
                             [**2120-2-19**]  02:48 AM
                             [**2120-2-19**]  03:40 AM
                             [**2120-2-19**]  05:40 PM
                             [**2120-2-20**]  03:28 AM
                             [**2120-2-21**]  04:41 AM
   WBC
   2.2
   11.9
   4.1
   3.4
   2.5
   1.6
   Hct
   26.5
   29.0
   24.8
   24.1
   22.8
   22.4
   Plt
   38
   36
   29
   48
   36
   38
   Cr
   2.3
   2.6
   2.8
   2.6
   2.5
   2.3
   2.5
   TropT
   0.12
   TCO2
   25
   25
   Glucose
   161
   264
   259
   182
   164
   288
   240
   Other labs: PT / PTT / INR:16.7/32.0/1.5, CK / CKMB /
   Troponin-T:39/3/0.12, ALT / AST:24/29, Alk Phos / T Bili:141/1.2,
   Differential-Neuts:88.0 %, Band:0.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL, LDH:481 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR-no significant change from previous
   Assessment and Plan
   71 yo male with metastatic renal cell CA and recurrent hemoptysis now
   admitted with acute hypoxemic respiratory failure with initial response
   to BIPAP and now with substantial improvement in pulmonary status and
   ongoing attempts to achieve adequate rate control to work to prevent
   recurrent episodes of acute respiratory failure and have pursued
   ongoing evaluation for possible sources for persistent altered mental
   status.
   1)Hypoxemic Respiratory failure-Multifactorial
   a)hemoptysis
inactive at this time, PRBC at this time with significant
   trend down to 21
   b)Pneumonia
2 week course completed
   c)pulmonary edema
controlled with IV medications at this time with beta
   blocker alone, CPAP as needed
   2)Fever
Source remains unclear at this time.  He has had 2 weeks of
   antibiotic treatment with current regimen.  We have not been able to
   identify source and has moved through to completion of LP at this time
   and has remained febrile throughout.  We have seen no evidence of acute
   infection and would favor to move off of antibiotics if team in
   agreement.
   -Follow cultures
   -D/C antibiotics if ONC team in agreement.
currently on Zosyn
   3)Altered Mental Status-Appears to be delirium at this time
with
   negative studies to date.  We have EEG and LP without convincing
   results leaving anoxic injury most likely at this time
   -Continue with NPO status
   -Minimize sedating medications
   4)CLL
with hemolytic anemia-
   -On Hydrocortisone
   ICU Care
   Nutrition:
   TPN without Lipids - [**2120-2-21**] 05:01 AM 62 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-2-18**] 06:40 AM
   22 Gauge - [**2120-2-21**] 01:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
To floor today
   Total time spent: 35 minutes